US05441953
A mixture of 4.0 g (11.7 mmol) of methyl (E)-6-(1,3-dihydro-4-cyano-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate and 1.86 g (46.5 mmol) of sodium hydroxide in 100 ml of 3:2 water:methanol was heated at reflux for 2 hours. The resulting homogenous solution was distilled until 30 ml of distillate was recovered. An additional 0.6 g (15 mmol) of sodium hydroxide was added to the reaction solution and it was refluxed for 2 days. Upon cooling the solution was partitioned between 1N aqueous HCl and ethyl acetate. The organic phase was washed twice with water, once with brine, and then dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give a solid. This solid was stirred with hexane and then filtered off to give 3.88 g (11.1 mmol) of (E)-6-(1,3-dihydro-4-carboxy-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoic acid as a white solid, mp 172°-174° C.

reactant | methyl (E)-6-(1,3-dihydro-4-cyano-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate | 11.7 mmol, 4.0 g | C(#N)C1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)OC)\C)OC)C)=O | C19H21NO5
reactant | sodium hydroxide | 46.5 mmol, 1.86 g | [OH-].[Na+]
reactant | methanol | CO | CH4O
reactant | sodium hydroxide | 15 mmol, 0.6 g | [OH-].[Na+]
reactant | hexane | CCCCCC | C6H14
solvent | water | 100 ml | O | H2O
product | (E)-6-(1,3-dihydro-4-carboxy-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoic acid | 11.1 mmol, 3.88 g | C(=O)(O)C1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)O)\C)OC)C)=O | C18H20O7
